### PR TITLE
Erdős Problem 647

### PR DESCRIPTION
**Pull request by smmercuri**

### CODE REVIEW

File: FormalConjectures/ErdosProblems/647.lean [hunk 1]
```diff
@@ -0,0 +1,63 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 647
+
+*Reference:* [erdosproblems.com/145](https://www.erdosproblems.com/647)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/647.lean]:
```suggestion
*Reference:* [erdosproblems.com/647](https://www.erdosproblems.com/647)
```

File: FormalConjectures/ErdosProblems/647.lean [hunk 2]
```diff
@@ -0,0 +1,63 @@
...
+namespace Erdos647
+
+open Filter ArithmeticFunction
+
+/-- Let $\tau(n)$ count the number of divisors of $n$. Is there some $n > 24$ such that
+$$
+  \max_{m < n}(m + \tau(n)) \leq n + 2?
+$$ -/
+@[category research open, AMS 11]
+theorem erdos_647 : (∃ n > 24, iSup fun m : Fin n ↦ m + σ 0 m ≤ n + 2) ↔ answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/647.lean]:
```suggestion
theorem erdos_647 : (∃ n > 24, (iSup fun m : Fin n ↦ m + σ 0 m) ≤ n + 2) ↔ answer(sorry) := by
```
(not only stylistic)

File: FormalConjectures/ErdosProblems/647.lean [hunk 3]
```diff
@@ -0,0 +1,63 @@
...
+  sorry
+
+/-- This is true for $n = 24$. -/
+@[category research solved, AMS 11]
+theorem erdos_647.variants.twenty_four : iSup fun m : Fin 24 ↦ m + σ 0 m ≤ 26 := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/647.lean]:
```suggestion
theorem erdos_647.variants.twenty_four : (iSup fun m : Fin 24 ↦ (m :  ℕ) + σ 0 m) ≤ 26 := by
```

File: FormalConjectures/ErdosProblems/647.lean [hunk 4]
```diff
@@ -0,0 +1,63 @@
...
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/647.lean]:
```suggestion
  apply ciSup_le fun m => _
  decide
```

File: FormalConjectures/ErdosProblems/647.lean [hunk 5]
```diff
@@ -0,0 +1,63 @@
...
+
+/-- Erdős says it 'seems certain' that for every $k$ there are infinitely many $n$
+for which
+$$
+  \max_{n−k < m < n}(m + \tau(m)) ≤ n + 2.
+$$ -/
+@[category research open, AMS 11]
+theorem erdos_647.variants.infinite :
+    (∀ k, { n | iSup fun m : Set.Ioo (n - k) n ↦ ↑m + σ 0 m ≤ n + 2 }.Infinite) ↔
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/647.lean]:
```suggestion
    (∀ k, { n | (iSup fun m : Set.Ioo (n - k) n ↦ ↑m + σ 0 m) ≤ n + 2 }.Infinite) ↔
```

File: FormalConjectures/ErdosProblems/647.lean (hunk 1 above)
Comment (smmercuri) [reply FormalConjectures/ErdosProblems/647.lean]: oops!

File: FormalConjectures/ErdosProblems/647.lean (hunk 4 above)
Comment (smmercuri) [reply FormalConjectures/ErdosProblems/647.lean]: nice

**Comment by smmercuri** [comment]
Good catch on the precedence issue! Decided to use the \supr notation as a way to fix it instead of parens

**Comment by mo271** [comment]
> Good catch on the precedence issue! Decided to use the \supr notation as a way to fix it instead of parens

even nicer!
